US04917817
In a nitrogen atmosphere, 9.12 g (380 mM) of magnesium into 120 ml of ether, and 49.32 g (360 mM) of butyl bromide dissolved in 30 ml of ether was added thereto, followed by 1.5 hours of heat refluxing. After cooling by standing and with ice, 13.68 g (120 mM) of trifluoroacetic acid dissolved in 30 ml of ether was added. After being stirred for 7 hours under cooling with ice, the system was subjected to hydrolysis with addition of hydrochloric acid, followed by extraction with ether and drying of the resultant ether layer with anhydrous sodium sulfate. The dried product was distilled under normal pressure to obtain 9.46 g of 1,1,1-trifluoro-2-hexanone. Yield: 47%.

reactant | magnesium | 380 mM, 9.12 g | [Mg] | Mg
reactant | butyl bromide | 360 mM, 49.32 g | C(CCC)Br | C4H9Br
reactant | trifluoroacetic acid | 120 mM, 13.68 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrochloric acid | Cl | ClH
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | ether | 120 ml | CCOCC | C4H10O
product | 1,1,1-trifluoro-2-hexanone | 9.46 g, Yield: 47% | FC(C(CCCC)=O)(F)F | C6H9F3O
